US08314138B2
Synthesis of 2-[1-(4-methanesulfonyl-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 1-bromomethyl-4-methanesulfonyl-benzene as described in Example 49 and isolated as a white solid (0.058 mg, 45% yield). 1HNMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.57 (d, J=4 Hz, 1H), 7.91 (d, J=8 Hz, 2H), 7.70 (d, J=8 Hz, 1H), 7.48 (d, J=2 Hz, 1H), 7.40 (d, J=8 Hz, 2H), 7.26-7.32 (m, 1H), 6.89 (d, J=4 Hz, 1H), 6.03-6.12 (m, 1H), 5.44 (s, 2H), 4.63 (d, J=4 Hz, 2H), 3.03 (s, 3H), 2.75 (s, 3H); MS (M+H)+=468.1; Rt=0.99 min; HRMS (M+H)+=468.12.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 1-bromomethyl-4-methanesulfonyl-benzene | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
product | 2-[1-(4-methanesulfonyl-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC=C(C=C1)S(=O)(=O)C)C | C22H21N5O3S2
